US07741341B2
4-(2-Ethoxy-ethoxy)-2-trichloromethyl-1H-benzoimidazole was prepared by a procedure according to example 108 (iii) starting from 345 mg (1.76 mmol) 3-(2-Ethoxy-ethoxy)-benzene-1,2-diamine and 0.30 mL (2.46 mmol) 2,2,2-trichloro-acetimidic acid methyl ester.

reactant | 3-(2-Ethoxy-ethoxy)-benzene-1,2-diamine | 1.76 mmol, 345 mg | C(C)OCCOC1=C(C(=CC=C1)N)N | C10H16N2O2
reactant | 2,2,2-trichloro-acetimidic acid methyl ester | 2.46 mmol, 0.30 mL | COC(C(Cl)(Cl)Cl)=N | C3H4Cl3NO
product | 4-(2-Ethoxy-ethoxy)-2-trichloromethyl-1H-benzoimidazole | C(C)OCCOC1=CC=CC=2NC(=NC21)C(Cl)(Cl)Cl | C12H13Cl3N2O2
